US07888347B2
2-[4-(1-Pyrrolidinyl)phenyl]-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine (D45)
To a solution of 1,1-dimethylethyl 2-[4-(1-pyrrolidinyl)phenyl]-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate (may be prepared as described in Description 44) (79 mg, 0.21 mmol) in dioxan (3 ml) was added 4M hydrochloric acid in dioxan (2 ml). The resulting mixture was stirred at room temperature, under argon, overnight. The reaction mixture was diluted with methanol and then purified by SCX, eluting with methanol and then 2M ammonia/methanol. The basic fractions were combined and solvent evaporated in vacuo to afford the title compound (D45). MS (ES+) m/e 283 [M+H]+.

reactant | 1,1-dimethylethyl 2-[4-(1-pyrrolidinyl)phenyl]-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate | 0.21 mmol, 79 mg | N1(CCCC1)C1=CC=C(C=C1)N1N=C2CCN(CCC2=C1)C(=O)OC(C)(C)C | C22H30N4O2
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dioxan | 3 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 2 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 2-[4-(1-Pyrrolidinyl)phenyl]-2,4,5,6,7,8-hexahydropyrazolo[3,4-d]azepine | N1(CCCC1)C1=CC=C(C=C1)N1N=C2CCNCCC2=C1 | C17H22N4
